US06069156
To a solution of methyl 2-(1-bromopropyl)-3-isobutyrylindole-6-carboxylate (323 mg) in acetic acid (3 ml) was added potassium acetate (345 mg) and the mixture was stirred at 60° C. for 2 hours. The resulting mixture was evaporated in vacuo, then the residue was diluted with ethyl acetate and washed with water, aqueous sodium bicarbonate and brine. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel eluting with a mixture of hexane and ethyl acetate (2:1) to give methyl 2-(1-acetoxypropyl)-3-isobutyrylindole-6-carboxylate (207 mg).

reactant | methyl 2-(1-bromopropyl)-3-isobutyrylindole-6-carboxylate | 323 mg | BrC(CC)C=1NC2=CC(=CC=C2C1C(C(C)C)=O)C(=O)OC | C17H20BrNO3
reactant | potassium acetate | 345 mg | C(C)(=O)[O-].[K+]
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | methyl 2-(1-acetoxypropyl)-3-isobutyrylindole-6-carboxylate | 207 mg | C(C)(=O)OC(CC)C=1NC2=CC(=CC=C2C1C(C(C)C)=O)C(=O)OC | C19H23NO5
